US06362203B1
In 10 mL of anhydrous dimethylformamide was dissolved 920 mg (2 mmol) of 4-(4-hydroxy-4-(2-hydroxyphenyl)piperidino)-N,N-dimethyl-2,2-diphenylbutaneamide. To the resulting solution were added 585 g (3 mmol) of 4-bromobutylacetate, 414 mg (3 mmol) of potassium carbonate and a small amount of potassium iodide. The resulting mixture was stirred under heating at 80° C. for 4 hours. After cooling, the reaction mixture was poured into water, followed by extraction with ethyl acetate, washing with water and drying. The residue obtained by distilling off the solvent under reduced pressure was dissolved in 15 mL of methanol. To the resulting solution was added 3 mL of a 1N aqueous solution of sodium hydroxide, followed by stirring at room temperature for 1 hour. From the reaction mixture, the solvent was distilled off under reduced pressure. The residue thus obtained was dissolved in chloroform. The resulting solution was washed with water and dried. The residue obtained by distilling off the solvent under reduced pressure was purified by chromatography on a silica gel column, whereby 260 mg (yield: 24.5%) of 4-(4-hydroxy-4-(2-(4-hydroxybutyloxy)phenyl)piperidino)-N,N-dimethyl-2,2-diphenylbutaneamide (Compound No. 34) was obtained.

reactant | 4-(4-hydroxy-4-(2-hydroxyphenyl)piperidino)-N,N-dimethyl-2,2-diphenylbutaneamide | 2 mmol, 920 mg | OC1(CCN(CC1)CCC(C(=O)N(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)C1=C(C=CC=C1)O | C29H34N2O3
reactant | 4-bromobutylacetate | 3 mmol, 585 g | BrCCCCOC(C)=O | C6H11BrO2
reactant | potassium carbonate | 3 mmol, 414 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 4-(4-hydroxy-4-(2-(4-hydroxybutyloxy)phenyl)piperidino)-N,N-dimethyl-2,2-diphenylbutaneamide | 260 mg, yield: 24.5% | OC1(CCN(CC1)CCC(C(=O)N(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)C1=C(C=CC=C1)OCCCCO | C33H42N2O4
